US08044052B2
2-(3-Cyclopropyl-5-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine
To a solution of tert-butyl 4-(3-cyclopropyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.408 g, 0.859 mmol) in dry CH2Cl2 (5 mL) was added trifluoroacetic acid (1.0 mL, 13.05 mmol) at 0° C. The reaction mixture was stirred for 30 min at 0° C. and at RT for 1 h. The reaction mixture was quenched with saturated aqueous NaHCO3 and extracted with CH2Cl2 three times. The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness to give the title compound (0.270 g, 84%) which was used in the next step.

reactant | tert-butyl 4-(3-cyclopropyl-5-(5-(trifluoromethyl)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 0.859 mmol, 0.408 g | C1(CC1)C=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)OC1=NC=C(C=C1)C(F)(F)F | C26H29F3N2O3
reactant | trifluoroacetic acid | 13.05 mmol, 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Cyclopropyl-5-(piperidin-4-ylidenemethyl)phenoxy)-5-(trifluoromethyl)pyridine | 0.270 g, 84% | C1(CC1)C=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=C(C1)C=C1CCNCC1 | C21H21F3N2O
